US04046889
1-(2-Mercaptopropanoyl)-L-Proline
1-(2-Benzoylthiopropanoyl)-L-proline (5.7 g.) is dissolved in a mixture of water (12 ml.) and concentrated ammonium hydroxide (9 ml.) with stirring. After 1 hour, the mixture is diluted with water (10 ml.) and filtered. The filtrate is extracted twice with ethyl acetate, concentrated to one-third of the original volume, acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The organic phase is washed with saturated sodium chloride, dried and concentrated to dryness in vacuo. The residue, 1-(2-mercaptopropanoyl)-L-proline, is crystallized from ethyl acetate-hexane, yield 3 g., m.p. (105) 116°-120°.

reactant | 1-(2-Benzoylthiopropanoyl)-L-proline | 5.7 g | C(C1=CC=CC=C1)(=O)SC(C(=O)N1[C@H](C(=O)O)CCC1)C | C15H17NO4S
solvent | water | 12 ml | O | H2O
solvent | ammonium hydroxide | 9 ml | [OH-].[NH4+]
solvent | water | 10 ml | O | H2O
product | 1-(2-Mercaptopropanoyl)-L-Proline | SC(C(=O)N1[C@H](C(=O)O)CCC1)C | C8H13NO3S
